US06429214B1
[1-Benzyl-7-(4-guanidino-butoxy)-2-oxo-1,2-dihydro-quinolin-3-yl]acetic acid
The title compound is prepared according to the procedure of Example 84 except that [7-(4-guanidino-butoxy)-2-oxo-1,2,3,4-tetrahydro-quinolin-3-yl]acetic acid methyl ester trifluoroacetate is replaced with [1-benzyl-7-(4-guanidino-butoxy)-2-oxo-1,2-dihydro-quinolin-3-yl]acetic acid methyl ester.

reactant | [7-(4-guanidino-butoxy)-2-oxo-1,2,3,4-tetrahydro-quinolin-3-yl]acetic acid methyl ester trifluoroacetate | FC(C(=O)O)(F)F.COC(CC1C(NC2=CC(=CC=C2C1)OCCCCNC(=N)N)=O)=O
reactant | [1-benzyl-7-(4-guanidino-butoxy)-2-oxo-1,2-dihydro-quinolin-3-yl]acetic acid methyl ester | COC(CC=1C(N(C2=CC(=CC=C2C1)OCCCCNC(=N)N)CC1=CC=CC=C1)=O)=O | C24H28N4O4
product | [1-Benzyl-7-(4-guanidino-butoxy)-2-oxo-1,2-dihydro-quinolin-3-yl]acetic acid | C(C1=CC=CC=C1)N1C(C(=CC2=CC=C(C=C12)OCCCCNC(=N)N)CC(=O)O)=O | C23H26N4O4
